US07560471B2
B. Preparation of 5-[4-(1-butyl-6-fluoro-1H-indol-3-yl)-piperidin-1-ylmethyl]-2-methoxybenzoic acid
Under inert atmosphere, a solution of 0.07 g (0.17 mmol) of 5-[4-(6-fluoro-1H-indol-3-yl)-piperidin-1-ylmethyl]2-methoxybenzoic acid ethyl ester in 0.5 ml of anhydrous DMF was added dropwise to a suspension containing 0.012 g (0.24 mol) of sodium hydride (60% in mineral oil) in 1 ml of anhydrous DMF. After stirring at room temperature for 1 hour, a solution of 0.044 g (0.24 mol) of 1-bromobuthane in 0.5 ml of DMF was added. The reaction mixture was stirred at room temperature for 15 hours. The solvent was removed under reduced pressure. This ester was dissolved in a mixture of 1 ml of ethanol and hydrolysed with 2N NaOH at room temperature for 20 hours. The crude mixture was neutralised with 2N HCl aqueous solution and the solvent was removed under reduced pressure. The crude residue was purified by HPLC-MS chromatography affording 0.0053 g of the expected acid.

reactant | 5-[4-(6-fluoro-1H-indol-3-yl)-piperidin-1-ylmethyl]2-methoxybenzoic acid ethyl ester | 0.17 mmol, 0.07 g | C(C)OC(C1=C(C=CC(=C1)CN1CCC(CC1)C1=CNC2=CC(=CC=C12)F)OC)=O | C24H27FN2O3
reactant | sodium hydride | 0.24 mol, 0.012 g | [H-].[Na+]
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 5-[4-(1-butyl-6-fluoro-1H-indol-3-yl)-piperidin-1-ylmethyl]-2-methoxybenzoic acid | 0.0053 g | C(CCC)N1C=C(C2=CC=C(C=C12)F)C1CCN(CC1)CC=1C=CC(=C(C(=O)O)C1)OC | C26H31FN2O3
